* Ideal mos driver

.include diode.lib
.include source.lib

.subckt mosdriver hb hi ho hs li lo vdd vss

xhigh hoi hs hi vss source
rhoi hoi ho 1
choi ho hs 1e-9
xlow loi vss li vss source
rloi loi lo 1
cloi lo vss 1e-9
dhb vdd hb diode

.ENDS mosdriver
