.title HSOP77case

* OP77 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 6/30V, BIP, OP, Low Vos, Precision, 1X
* Developed by: JCB / PMI
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (12/1990) - Re-ordered subcircuit call out nodes to put the output node last.
*          - Changed Ios from 0.3E-9 to 0.15E-9
*      - Added F1 and F2 to fix short circuit current limit.
* Copyright 1990, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*              non-inverting input
*              | inverting input
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  |
.SUBCKT OP77   1 2 99 50 39
*#ASSOC Category="Op-amps" symbol=opamp
*
* MODELS USED
*
.MODEL QX NPN(BF=417E6)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.MODEL DEN  D(IS=1E-12 RS=12.08K KF=1E-17 AF=1)
.MODEL DIN  D(IS=1E-12 RS=7.55E-6 KF=1.55E-15 AF=1)
*
* INPUT STAGE & POLE AT 6 MHZ
*
R1   2   3    5E11
R2   1   3    5E11
R3   5  97    0.0606
R4   6  97    0.0606
CIN  1   2    4E-12
C2   5   6    218.9E-9
I1   4  51    1
IOS  1   2    0.15E-9
BOS  9  10    V={10E-6 + V(30, 33)}
Q1   5  2  7  QX
Q2   6  9  8  QX
R5   7   4    0.009
R6   8   4    0.009
D1   2   1    DX
D2   1   2    DX
EN   10  1    12  0  1
GN1  0   2    15  0  1
GN2  0   1    18  0  1
*
EREF  98 0    33  0  1
EPLUS 97 0    99  0  1
ENEG  51 0    50  0  1
*
* VOLTAGE NOISE SOURCE WITH FLICKER NOISE
*
DN1  11  12   DEN
DN2  12  13   DEN
VN1  11   0   DC 2
VN2  0   13   DC 2
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
DN3  14  15   DIN
DN4  15  16   DIN
VN3  14   0   DC 2
VN4  0   16   DC 2
*
* SECOND CURRENT NOISE SOURCE
*
DN5  17  18   DIN
DN6  18  19   DIN
VN5  17   0   DC 2
VN6  0   19   DC 2
*
* FIRST GAIN STAGE
*
R7   20 98     1
G1   98 20     5  6  59.91
D3   20 21     DX
D4   22 20     DX
B1   97 21     V={-2.4 + V(97, 33)}
B2   22 51     V={-2.4 + V(33, 51)}
*
* GAIN STAGE & DOMINANT POLE AT 0.053 HZ
*
R8   23 98     6.01E9
C3   23 98     500E-12
G2   98 23     20 33  33.3E-6
V1   97 24     1.3
V2   25 51     1.3
D5   23 24     DX
D6   25 23     DX
*
* NEGATIVE ZERO AT -4MHZ
*
R9   26 27     1
C4   26 27     -39.75E-9
R10  27 98     1E-6
E3   26 98     23 33  1E6
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 20 HZ
*
R13  30 31     1
L2   31 98     7.96E-3
G4   98 30     3  33  1.0E-7
D7   30 97     DX
D8   51 30     DX
*
* POLE AT 2 MHZ
*
R14  32 98     1
C5   32 98     79.5E-9
G5   98 32     27 33  1
*
* OUTPUT STAGE
*
R15  33 97     1
R16  33 51     1
BSY  99 50     I={0.325E-3 + 0.0425E-3*V(99, 50)}
F1   34  0     V3  1
F2   0  34     V4  1
R17  34 99     400
R18  34 50     400
L3   34 39     2E-7
G6   37 50     32 34  2.5E-3
G7   38 50     34 32  2.5E-3
G8   34 99     99 32  2.5E-3
G9   50 34     32 50  2.5E-3
V3   35 34     6.8
V4   34 36     4.4
D9   32 35     DX
D10  36 32     DX
D11  99 37     DX
D12  99 38     DX
D13  50 37     DY
D14  50 38     DY
.ENDS OP77

.SUBCKT loop_probe inp out params: lpvar=0
Iinj 0 probe AC {0.5*lpvar*(lpvar-1)}
Vinj probe inp AC {0.5*lpvar*(lpvar+1)}
Vprobe probe out 0
.ENDS loop_probe

.model 2N2222 NPN(IS=1E-14 VAF=100
+   BF=200 IKF=0.3 XTB=1.5 BR=3
+   CJC=8E-12 CJE=25E-12 TR=100E-9 TF=400E-12
+   ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2)

XU1 Ninp Ninn Np15 Nm15 Ninplp OP77
XU2 No Nrep Np15 Nm15 Nrep OP77
R1 Ninn 0 10k
R2 Ne Ninn 10k
C2 Ne Ninn 100n
R3 Nin Ninp 10k
R4 Nrep Ninp 10k
C4 Nrep Ninp 100n
R5 Ne No 200
Vi Nin 0 {vin} AC {1-prb*prb}
V2p15 Np15 0 15
Vm15 Nm15 0 -15
Q1 Nc Nb Ne 2N2222
R6 Np15 Nc 50
R7 Noutlp Nb 10
D1 Ngl No YELLOW
Vl Ngl 0 0
XXlp Ninlp Noutlp loop_probe params: lpvar=prb
.model YELLOW D(IS=93.1P RS=42M N=4.61 BV=2 IBV=10U
+ CJO=2.97P VJ=.75 M=.333 TT=4.32U)

*.lib /Users/chema/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.param prb=0
.param vin=2.5

.end
