* Ideal mos driver
.SUBCKT mosdriver
+ HB
+ HI
+ HO
+ HS
+ LI
+ LO
+ VDD
+ VSS

.model diode D
+ is = 1.038e-15
+ n = 1
+ tt = 20e-9
+ cjo = 5e-12
+ rs = 0.50
+ bv = 130

bhigh ho hs v={if(v(hi, vss) > 0.5, v(hb, vss), 0)}
blow lo vss v={if(v(li, vss) > 0.5, v(vdd, vss), 0)}
dhb vdd hb diode

.ENDS mosdriver
